US08110577B2
To a stirred mixture of 7-cyano-2-(3-methyl[1,2,4]thiadiazol-5-yl)heptanoic acid phenylamide (2021044) (440 mg, 1.30 mmol) in 50% hydroxylamine/water (20 mL) was added methanol until the oil dissolved. The solution was then heated at reflux overnight. Water (100 mL) was added and the reaction mixture was then extracted with ethyl acetate (3×150 mL). The combined organic fractions were dried (MgSO4) and the solvent was removed under reduced pressure. The crude product (400 mg, 1.1 mmol) was purified by preparative liquid chromatography to afford 7-(N-hydroxycarbamimidoyl)-2-(3-methyl-[1,2,4]thiadiazol-5-yl)-heptanoic acid phenylamide (2021035) as a white solid.

reactant | 7-cyano-2-(3-methyl[1,2,4]thiadiazol-5-yl)heptanoic acid phenylamide | 1.30 mmol, 440 mg | C1(=CC=CC=C1)NC(C(CCCCCC#N)C1=NC(=NS1)C)=O | C17H20N4OS
reactant | methanol | CO | CH4O
reactant | Water | 100 mL | O | H2O
reactant | hydroxylamine water | 20 mL | NO.O
product | 7-(N-hydroxycarbamimidoyl)-2-(3-methyl-[1,2,4]thiadiazol-5-yl)-heptanoic acid phenylamide | C1(=CC=CC=C1)NC(C(CCCCCC(NO)=N)C1=NC(=NS1)C)=O | C17H23N5O2S
